Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.07191201241
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.97113166812
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.39998267464
[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-7.1832188386
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],0.64117965627
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13],1.82352945211
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.86069721847
[C:4][H:5].[O:1]=[C:2]([O:3])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],-5.71503631383
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-0.24351549508
[C:1]#[C:2][O:3][H:4].[C:5](#[C:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10],-2.19824020902
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],3.80603872763
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1],4.13528923699
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6](=[O:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12],3.97600531791
[C:1]#[C:2][C:3]([H:4])[C:5][O:7][H:8].[H:6]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-5.014527504119998
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.83429854186
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9].[H:10]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.80156053659
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.44913948735
[H:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],0.36912596842
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.63147550204
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.57574870825
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8].[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9],-4.05714576383
[C:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.65153022262
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1],4.4412247559
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.2701135182
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.806150139939
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-1.84266334531
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.08469845027
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:11]([H:12])([H:13])[H:14],7.19169953632
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.86441638261
